US08357694B2
(R)-2-fluoro-5-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate
This was synthesized by using (R)-2-(2-fluoro-5-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)ethanol and methanesulfonyl chloride as described in general procedure 6 to afford the desired product. M.p.=99-100° C. 1H NMR 400 MHz (DMSO-d6) δ 9.58 (s, 1 H), 8.32-8.28 (m, 2 H), 7.82-7.81 (m, 1 H), 7.72-7.68 (m, 1 H), 7.51-7.42 (m, 2 H), 7.26-7.11 (m, 3 H), 7.04-7.01 (m, 2 H), 6.77 (t, 1 H), 4.64 (t, J=6.8 Hz, 1 H), 4.44-4.40 (m, 2H), 3.19-2.94 (m, 7H). LCMS m/e 508 (M+H)=508.

reactant | (R)-2-(2-fluoro-5-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)ethanol | FC1=C(C=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=C(C=CC=C1)F)C=CC=C3)CCO | C26H21F2N3O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (R)-2-fluoro-5-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=C(C=CC(=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=C(C=CC=C1)F)C=CC=C3)F | C27H23F2N3O3S
